US05780642
3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamin
The title compound was prepared in a similar manner to the Example immediately above from N-(1,1-dimethyl-2-phenoxyethyl)acrylamide and 4-cyanomethyl-imidazole.

reactant | N-(1,1-dimethyl-2-phenoxyethyl)acrylamide | CC(COC1=CC=CC=C1)(C)NC(C=C)=O | C13H17NO2
reactant | 4-cyanomethyl-imidazole | C(#N)CC=1N=CNC1 | C5H5N3
product | 3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamin | NCCC=1N=CN(C1)CCCNC(COC1=CC=CC=C1)(C)C | C18H28N4O
